US07816371B2
c. 6-Chloro-5-nitro-1H-isochromen-1-one
A pressure tube was charged with methyl 4-chloro-2-methyl-3-nitrobenzoate (13 g, 57 mmol), N,N-dimethylformamide (10 mL, 200 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (26.5 mL, 200 mmol) and the reaction heated to 120° C. for 20 h. The solvents were removed and the resultant brown residue was redissolved in ethyl acetate (600 mL, 6000 mmol) and 130-270 mesh 60A silica gel (500 g, 6000 mmol) was added and the reaction stirred with a mechanical stirrer for 8 h. The silica gel was filtered off, washed with ethyl acetate (400 mL) and the organics were removed under vacuum and the residue purified by flash chromatography (330 g, 2-50% ethyl acetate/hexane) to obtain the two isomers in 14% yields each in almost 98% purity. MS m/z=226.2 (M+H). 1H NMR (400 MHz; DMSO-d6) δ 8.35 (d, J=8.63 Hz, 1H), 7.95 (d, J=8.63 Hz, 1H), 7.76 (d, J=5.91 Hz, 1H), 6.61 (d, J=6.04 Hz, 1H).

reactant | methyl 4-chloro-2-methyl-3-nitrobenzoate | 57 mmol, 13 g | ClC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H8ClNO4
reactant | N,N-dimethylformamide | 200 mmol, 10 mL | CN(C=O)C | C3H7NO
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 200 mmol, 26.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate | 6000 mmol, 600 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-5-nitro-1H-isochromen-1-one | ClC=1C(=C2C=COC(C2=CC1)=O)[N+](=O)[O-] | C9H4ClNO4
